US05602277
EXAMPLE 13 4-(Methylaminocarbonylamino)benzoic acid.
A mixture of 3.0 g (0.22 mol) of 4-aminobenzoic acid (Aldrich) in 100 mL of chloroform was treated with 10 g (0.175 mol) of methylisocyanate (Aldrich), and the mixture was stirred at ambient temperatures for three days. The mixture was concentrated and the residue was triturated with diethyl ether/petroleum ether. The solid was collected by filtration, air-dried, and then slurried with 100 mL of water. The solid was collected by vacuum filtration and the cake was sucked dry. The cake was then recrystallized from acetonitrile/water to yield 1.8 g (43%) of the title compound as a fluffy white solid, mp>400° C. (lit1 mp>300° C.).

reactant | 4-aminobenzoic acid | 0.22 mol, 3.0 g | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | methylisocyanate | 0.175 mol, 10 g | CN=C=O | C2H3NO
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-(Methylaminocarbonylamino)benzoic acid | 1.8 g, 43% | CNC(=O)NC1=CC=C(C(=O)O)C=C1 | C9H10N2O3
